US08134001B2
In a manner similar to the method described in Example 50a, 5-bromo-2-fluorobenzaldehyde (2.1 g, 11 mmol) (Alfa) was reacted with 4-trifluoromethylphenol (1.9 g, 12 mmol)(Aldrich) and K2CO3 in N,N-dimethylacetamide to give 5-bromo-2-(4-trifluoromethyl-phenoxy)-benzaldehyde as a yellow solid (Yield 2.47 g, 68%).

reactant | 5-bromo-2-fluorobenzaldehyde | 11 mmol, 2.1 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | 4-trifluoromethylphenol | 12 mmol, 1.9 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 5-bromo-2-(4-trifluoromethyl-phenoxy)-benzaldehyde | Yield 2.47 g, 68% | BrC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)C(F)(F)F | C14H8BrF3O2
